US07449477B2
7-Phenyl-isoquinoline-5-sulfonic acid hydrochloride
Add 7-Bromo-isoquinoline-5-sulfonic acid sodium salt (17.8 g, 55.7 mmol), phenylboronic acid (10.2 g, 83.5 mmol), N)N-dimethylformamide (178 mL), 1M sodium carbonate (111 mL, 111 mmol), palladium acetate (0.125 g, 0.56 mmol) and 1,4-bis(diphenylphosphino)butane (0.285 g, 0.67 mmol) to a flask. Heat the slurry to 70° C. for 40 minutes. Cool and filter the solids from the reaction. Add 5N hydrochloric acid to the filtrate until a thick precipitate forms. Filter the precipitate and wash the filter cake with water and then with acetone. Dry the solid in a vacuum oven at 40° C. to provide the title compound as a yellow solid. 1H NMR (DMSO, 500.0 MHz): δ 9.87 (s, 1H), 9.15 (d, 1H, J=6.5 Hz), 8.79 (s, 1H), 8.70-8.75 (m, 2H), 7.87 (d, 2H, J=8.5 Hz), 7.63 (t, 2H, J=7.5 Hz), 7.54 (t, 1H, J=7.5 Hz).

reactant | 7-Bromo-isoquinoline-5-sulfonic acid sodium salt | 55.7 mmol, 17.8 g | [Na+].BrC=1C=C(C=2C=CN=CC2C1)S(=O)(=O)[O-]
reactant | phenylboronic acid | 83.5 mmol, 10.2 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | sodium carbonate | 111 mmol, 1M, 111 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | 1,4-bis(diphenylphosphino)butane | 0.67 mmol, 0.285 g | C1(=CC=CC=C1)P(CCCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C28H28P2
reactant | hydrochloric acid | 5N | Cl | ClH
catalyst | palladium acetate | 0.56 mmol, 0.125 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 7-Phenyl-isoquinoline-5-sulfonic acid hydrochloride | Cl.C1(=CC=CC=C1)C=1C=C(C=2C=CN=CC2C1)S(=O)(=O)O | InChI=1S/C15H11NO3S.ClH/c17-20(18,19)15-9-12(11-4-2-1-3-5-11)8-13-10-16-7-6-14(13)15;/h1-10H,(H,17,18,19);1H
